US04448776
A mixture of 18.3 g of benzhydrylamine, 10 g of triethylamine and 60 ml of acetonitrile is added dropwise to a boiling mixture of 13.2 g of 1,4-bis-(bromomethyl)-benzene in 60 ml of acetonitrile. The mixture is left to boil overnight, is greatly concentrated, and partitioned between 200 ml of ether and 200 ml of 10% sodium hydroxide solution, concentrated by evaporation and recrystallised from diethyl ether. N,N'-bis-(diphenylmethyl)-p-xylylenediamine having a melting point of 92°-94° C. is obtained.

reactant | benzhydrylamine | 18.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
reactant | triethylamine | 10 g | C(C)N(CC)CC | C6H15N
reactant | 1,4-bis-(bromomethyl)-benzene | 13.2 g | BrCC1=CC=C(C=C1)CBr | C8H8Br2
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | N,N'-bis-(diphenylmethyl)-p-xylylenediamine | C1(=CC=CC=C1)C(NCC1=CC=C(C=C1)CNC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C34H32N2
